US06127361
4.20 g (8.85 mmol) of (+)-5,11-dihydro-5-[[(2R,4R)-4-(methoxymethoxy)-1-(4-methoxyphenethyl)pyrrolidin-2-yl]methyl]dibenzo[b,e][1,4]oxazepine in 40 ml of methanol was treated with 20 ml of 10% HCl for 1 hour under reflux. Methanol was removed in vacuo and 1N NaOH was added to the residue. The products were extracted with ethyl acetate and the organic layer was washed with saturated aqueous sodium chloride, dried over anhydrous sodium sulfate, and concentrated in vacuo. The residue was purified by silicagel column chromatography (ethyl acetate) to give 3.02 g (79.3%) of (+)-5,11-dihydro-5-[[(2R, 4R)-4-hydroxy-1-(4-methoxyphenethyl)pyrrolidin-2-yl]methyl]dibenzo[b,e][1,4]oxazepine as pale yellow amorphous.

reactant | (+)-5,11-dihydro-5-[[(2R,4R)-4-(methoxymethoxy)-1-(4-methoxyphenethyl)pyrrolidin-2-yl]methyl]dibenzo[b,e][1,4]oxazepine | 8.85 mmol, 4.20 g | COCO[C@@H]1C[C@@H](N(C1)CCC1=CC=C(C=C1)OC)CN1C2=C(OCC3=C1C=CC=C3)C=CC=C2 | C29H34N2O4
reactant | HCl | 20 ml | Cl | ClH
solvent | methanol | 40 ml | CO | CH4O
product | (+)-5,11-dihydro-5-[[(2R, 4R)-4-hydroxy-1-(4-methoxyphenethyl)pyrrolidin-2-yl]methyl]dibenzo[b,e][1,4]oxazepine | 3.02 g, 79.3% | O[C@@H]1C[C@@H](N(C1)CCC1=CC=C(C=C1)OC)CN1C2=C(OCC3=C1C=CC=C3)C=CC=C2 | C27H30N2O3
